US05051422
N-(3-Methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine hydrochloride
Combine 3-methoxybenzenamine (81.2 g, 0.66 mol) with N-(2-chloroethyl)-benzenemethanamine hydrochloride (45.3 g, 0.22 mol) and heat to 190° C. for 13 h. Add methylene chloride to precipitate a solid. Filter the solid and wash with methylene chloride. Triturate the solid with 100 mL of ethanol, filter the solid and wash with ethanol to give the title compound.

reactant | 3-methoxybenzenamine | 0.66 mol, 81.2 g | COC=1C=C(C=CC1)N | C7H9NO
reactant | N-(2-chloroethyl)-benzenemethanamine hydrochloride | 0.22 mol, 45.3 g | Cl.ClCCNCC1=CC=CC=C1
product | N-(3-Methoxyphenyl)-N'-(phenylmethyl)-1,2-ethanediamine hydrochloride | Cl.COC=1C=C(C=CC1)NCCNCC1=CC=CC=C1 | InChI=1S/C16H20N2O.ClH/c1-19-16-9-5-8-15(12-16)18-11-10-17-13-14-6-3-2-4-7-14;/h2-9,12,17-18H,10-11,13H2,1H3;1H
